US04968808
1-[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamino]-2-nitro-1-phenoxyethene.
21·4 g (0·1 mol) of 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine and 35·1 g (0·1 mol) of 1,1,1-triphenoxy-2-nitroethane are boiled for 3 hours in 250 ml of acetonitrile under a nitrogen atmosphere. The solvent is evaporated off under vacuum after cooling to 40° C. and the yellow oil left behind is chromatographed on 560 g of silica gel with dichloromethane/methanol (95:5). After concentration by evaporation under vacuum, the main fraction yields 28·7 g (76%) of the title compound in the form of a yellowish, viscous oil.

reactant | 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine | 1 mol, 4 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1,1,1-triphenoxy-2-nitroethane | 1 mol, 1 g | O(C1=CC=CC=C1)C(C[N+](=O)[O-])(OC1=CC=CC=C1)OC1=CC=CC=C1 | C20H17NO5
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 1-[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamino]-2-nitro-1-phenoxyethene | 7 g, 76% | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])OC1=CC=CC=C1 | C18H23N3O4S
